US06440636B1
Production of 1,3-Dihydroxy-5-(1-methacryloyloxy-1-methylethyl)adamantane [1-3 (Methacrylate)]
A mixture of 10 mmole of the above-prepared 1-(1-methacryloyloxy-1-methylethyl)-3,5-bis(2-methoxyethoxymethoxy)adamantane, 1 mmole (in terms of HCl) of 6 N-HCl, and 40 ml of acetone was stirred at room temperature for 5 hours. An aqueous ammonium chloride solution was added to the reaction mixture; the resulting mixture was extracted with ethyl acetate; the organic layer was concentrated; and the concentrate was subjected to column chromatography on a silica gel to yield the title compound.

reactant | 1-(1-methacryloyloxy-1-methylethyl)-3,5-bis(2-methoxyethoxymethoxy)adamantane | 10 mmole | C(C(=C)C)(=O)OC(C)(C)C12CC3(CC(CC(C1)C3)(C2)OCOCCOC)OCOCCOC | C25H42O8
reactant | HCl | Cl | ClH
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 1,3-Dihydroxy-5-(1-methacryloyloxy-1-methylethyl)adamantane | OC12CC3(CC(CC(C1)C3)(C2)C(C)(C)OC(C(=C)C)=O)O | C17H26O4
